US06900209B2
Step 4: 6-[5-(tert-Butyldimethylsilyloxymethyl)pyridin-2-ylmethyloxy]-3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazine
The reaction was carried out as described in Example 1, Step 4 using 5-(tert-butyldimethylsilyloxymethyl)-2-(hydroxymethyl)pyridine (1.0 g, 3.95 mmol) and 6-chloro-3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazine (1.12 g, 3.95 mmol) to give, after column chromatography on silica using 2-3% MeOH/CH2Cl2 as eluent, the title phthalazine (1.4 g, 70%).

reactant | 5-(tert-butyldimethylsilyloxymethyl)-2-(hydroxymethyl)pyridine | 3.95 mmol, 1.0 g | [Si](C)(C)(C(C)(C)C)OCC=1C=CC(=NC1)CO | C13H23NO2Si
reactant | 6-chloro-3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazine | 3.95 mmol, 1.12 g | ClC1=NN2C(C3=CC=CC=C13)=NN=C2C2=NOC(=C2)C | C13H8ClN5O
reactant | phthalazine | 1.4 g | C1=NN=CC2=CC=CC=C12 | C8H6N2
product | 6-[5-(tert-Butyldimethylsilyloxymethyl)pyridin-2-ylmethyloxy]-3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazine | [Si](C)(C)(C(C)(C)C)OCC=1C=CC(=NC1)COC1=NN2C(C3=CC=CC=C13)=NN=C2C2=NOC(=C2)C | C26H30N6O3Si
